US07157464B2
Synthesis of 1-{2-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester
Protocol T was followed using 3-Trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/1) afforded the title compound as colorless oil. 1H NMR (400 MHz, CDCl3); 8.15 (s, 1H), 6.98–7.04 (m, 2H), 6.86–6.92 (m, 2H), 5.1 (s, 2H), 4.28–4.38 (q, 2H), 3.78–3.84 (m, 2H), 3.62–3.74 (m, 2H), 3.04–3.2 (m, 4H), 1.3–1.4 (t, 3H). 13C NMR (400 MHz, CDCl3): 163.4, 160.5, 159.2, 156.2, 147, 137.2, 119, 118.8, 116, 115.8, 61, 54, 50.8, 50.0, 45.0, 42.2, 14.2.

reactant | 3-Trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NNC1)C(F)(F)F | C7H7F3N2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-{2-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NN(C1)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F)C(F)(F)F | C19H20F4N4O3
